US09334286B2
Preparation 155: (E)-5-Bromo-1-methyl-1H-imidazole-2-carbaldehyde oxime
A mixture of K2CO3 (360 mg, 2.61 mmol), 5-bromo-1-methyl-1H-imidazole-2-carbaldehyde (98.5 mg, 0.521 mmol) and hydroxylamine hydrochloride (109 mg, 1.563 mmol) in EtOH (4 mL) was stirred at 120° C. under microwave irradiation for 60 minutes. The resulting suspension was filtered, washing through with EtOAc and MeOH. The filtrate was concentrated in vacuo to afford the title compound as a white solid (100 mg, 94%).

reactant | K2CO3 | 2.61 mmol, 360 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-bromo-1-methyl-1H-imidazole-2-carbaldehyde | 0.521 mmol, 98.5 mg | BrC1=CN=C(N1C)C=O | C5H5BrN2O
reactant | hydroxylamine hydrochloride | 1.563 mmol, 109 mg | Cl.NO
solvent | EtOH | 4 mL | CCO | C2H6O
product | (E)-5-Bromo-1-methyl-1H-imidazole-2-carbaldehyde oxime | 100 mg, 94% | BrC1=CN=C(N1C)/C=N/O | C5H6BrN3O
